Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melena and presyncope
 
Major Surgical or Invasive Procedure:
___ EGD with biopsies

 
History of Present Illness:
___ with PMHx of anemia of uncertain etiology requiring 
transfusion ___ and a family history of vWF deficiency 
presents with 1 episode melena and pre-syncope. 

Patient was in his USOH until 2 weeks ago when his mother 
noticed increased exertional dyspnea, fatigue, lightheadedness, 
and paleness. He had sudden onset lightheadedness 3 days prior 
to admission relieved with sitting without fall or LOC. He 
subsequently had one episode of melena. Denies red blood in 
stools, toilet bowl or paper. He was seen by his PCP ___ who 
did a DRE and found him to be guaiac +, and suggested he go to 
the ED. 

In the ED, initial VS were 98.0 102 139/72 18 98% RA.  
Exam notable for benign abdomen, normal cardiac and pulm exam. 
No hemorrhoids, masses, heme occult positive 
Labs showed H/H of 7.6/24, normal coags, normal Chem7 and LFTs. 

Received 1L NS and 80mg IV pantoprazole  
Transfer VS were HR 95 111/65 18 100% RA 
GI was consulted and performed an EGD. 
EGD showed gastritis and Forest III duodenal ulcer

Decision was made to admit to medicine for further management as 
patient is just above transfusion threshold.
  
On arrival to the floor, patient reports improved light 
headedess and denies F/C/C/ST LAD C/P SOB DOE Abd pain N/V/D/C 
black or bloody stools, N/T/W/falls, joint swelling, mucosal 
bleeding, dysuria, hematuria

 
Past Medical History:
- anemia of unknown cause to H/H 3.6/13.0 requiring 4U pRBCs
- ?vWF disease per labs in ___ ___
 
Social History:
___
Family History:
- paternal grandmother had ITP 
- maternal uncle had ___ 
- maternal cousin had ___ disease 
- maternal grandmother with colon cancer diagnosed at ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: (Temp not available) BP 123/73 HR 88 RR18 98% O2 on RA 
GENERAL: WNWD male in NAD
HEENT: AT/NC, EOMI, PERRL, conjunctival and sublingual palor, 
anicteric sclera, MMM, good dentition   
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably on 
room air 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: normal capillary refill, no cyanosis, clubbing or 
edema, DP +2 pulses bilaterally 
NEURO: A&O, CN II-XII intact, sensation and strength intact 
throughout, no ataxia or dysmetria
SKIN: Pale, warm with no excoriations or lesions, no rashes
 
Pertinent Results:
ADMISSION
=========
___ 07:25PM   GGT-14
___ 07:25PM   IRON-22*
___ 07:25PM   calTIBC-298 FERRITIN-7.8* TRF-229
___ 07:25PM   WBC-5.3 RBC-2.25* HGB-6.2* HCT-19.9* MCV-88 
MCH-27.6 MCHC-31.2* RDW-14.6 RDWSD-45.7
___ 07:25PM   HYPOCHROM-NORMAL ANISOCYT-2+ POIKILOCY-1+ 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-1+ OVALOCYT-1+
___ 07:25PM   PLT COUNT-226
___ 07:25PM   RET AUT-4.8* ABS RET-0.11*
___ 09:20AM   GLUCOSE-94 UREA N-15 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-26 ANION GAP-16
___ 09:20AM   estGFR-Using this
___ 09:20AM   ALT(SGPT)-10 AST(SGOT)-12 LD(LDH)-115 ALK 
PHOS-44 TOT BILI-<0.2 DIR BILI-0.1
___ 09:20AM   ALBUMIN-4.3
___ 09:20AM   HAPTOGLOB-121
___ 09:20AM   WBC-5.0 RBC-2.73* HGB-7.6* HCT-24.0* MCV-88 
MCH-27.8 MCHC-31.7* RDW-14.6 RDWSD-44.8
___ 09:20AM   NEUTS-54.6 ___ MONOS-9.7 EOS-0.6* 
BASOS-0.4 NUC RBCS-0.6* IM ___ AbsNeut-2.71 AbsLymp-1.69 
AbsMono-0.48 AbsEos-0.03* AbsBaso-0.02
___ 09:20AM   PLT COUNT-291
___ 09:20AM   ___ PTT-33.5 ___
___ 09:20AM   ___
 
IMAGING:
___ EGD
Impression: Normal mucosa in the esophagus
Erythema and erosion in the antrum compatible with gastritis 
(biopsy)
Normal mucosa in the duodenum (biopsy)
Ulcer in the duodenal sweep
Otherwise normal EGD to third part of the duodenum
 
MICRO:
___ GI PATHOLOGY: pending
___ HELICOBACTER PYLORI ANTIBODY TEST (Pending)
 
DISCHARGE:
___ 07:25AM BLOOD WBC-4.2 RBC-3.06*# Hgb-8.3*# Hct-26.7*# 
MCV-87 MCH-27.1 MCHC-31.1* RDW-15.1 RDWSD-46.9* Plt ___
___ 07:25AM BLOOD ___ PTT-33.1 ___
___ 07:25AM BLOOD Glucose-89 UreaN-10 Creat-0.9 Na-142 
K-4.1 Cl-104 HCO3-28 AnGap-14
___ 07:25AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.0
___ 02:28PM URINE Color-Straw Appear-Clear Sp ___
___ 02:28PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
 
 
Brief Hospital Course:
___ with PMHx of anemia of uncertain etiology requiring 
transfusion ___ and a family history of vWF deficiency 
presents with 1 episode melena and pre-syncope, found to have 
worsening anemia, gastritis and duodenal ulcer. Received 1u 
pRBCs with appropriate response. Hemoglobin/hematocrit remained 
stable on serial checks thereafter.  Workup significant for iron 
deficiency anemia and no evidence of hemolysis with appropriate 
reticulocytosis. He received IV ferric gluconate and was started 
on BID oral iron supplementation. Orthostatic VS were negative 
and patient was ambulating without symptoms prior to discharge.
 
TRANSITIONAL ISSUES
===================
- Please recheck CBC at next follow-up appointment
- Please follow-up H. Pylori serum antibody test 
- Please follow-up tTG for Celiac sprue
- Please follow-up EGD biopsy
- Should continue BID PPI for 8 weeks
- received IV iron gluconate and started on BID oral iron for 
iron deficiency anemia
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
2. Ferrous GLUCONATE 324 mg PO BID 
RX *ferrous gluconate 324 mg (36 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute blood loss anemia due to gastrointestinal bleeding
# Duodenitis/Gastritis
# Iron deficiency anemia
# ___ Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were seen in 
our Emergency Department because you were feeling lightheaded, 
had had 1 episode of dark stool, and had worsening anemia. There 
was concern that you had a bleed within your gastrointestinal 
tract and so an EGD was performed, which is a test where a 
camera is passed down your throat to look at your esophagus and 
stomach. While there was no bleeding at the time of the test, we 
did find a ulcer in the first part of your small intestines and 
there was irritation of the lining of your stomach. 

We admitted you to the hospital where you received a blood 
transfusion and were given an acid blocker in order to allow the 
ulcer to heal. You were also found to have very low blood iron 
levels and so we gave you intravenous iron to replete your 
stores. 

We are staring you on twice a day iron pills to continue 
treating your anemia and a twice a day acid blocker to let your 
ulcer heal. Keep taking these medications until your doctor 
advised you otherwise.
 
While you were here, you let us know that you were having pain 
with urination. We checked your urine for signs of infection and 
found none.

You were no longer feeling lightheaded and your blood counts are 
at a safe level and so you are being sent home today. It is very 
important however, that you follow up with your primary care 
provider and make an appointment with your hematologist, or 
blood doctor. You will need to have your blood counts checked in 
the next 2 weeks. You should also follow up with Dr. ___ at 
___ ___ as below. 

If you develop lightheadedness, shortness of breath, loose 
consciousness, or notice black or red stools please return to 
the hospital immediately as these are signs that you are 
bleeding. 

We wish you the best in health,
Your ___ Team
 
Followup Instructions:
___